US08754209B2
To a stirred solution of N-methyl-6-(4-nitrophenyl)-1H-indazole-3-carboxamide (154 mg, 0.52 mmol) in ethanol (10 Ml), was added SnCl2 (588 mg, 2.6 mmol) and the mixture was stirred at 80° C. for 3 h. The mixture was cooled to rt and saturated sodium bicarbonate aqueous solution was added. The organic layer was extracted three times and the combined organaic layer was dried over sodium sulfate and concentrated under reduced pressure. The residue was triturated in ethyl acetate and hexane to give 6-(4-aminophenyl)-N-methyl-1H-indazole-3-carboxamide (130 mg).

reactant | N-methyl-6-(4-nitrophenyl)-1H-indazole-3-carboxamide | 0.52 mmol, 154 mg | CNC(=O)C1=NNC2=CC(=CC=C12)C1=CC=C(C=C1)[N+](=O)[O-] | C15H12N4O3
reactant | SnCl2 | 2.6 mmol, 588 mg | Cl[Sn]Cl
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 6-(4-aminophenyl)-N-methyl-1H-indazole-3-carboxamide | 130 mg | NC1=CC=C(C=C1)C1=CC=C2C(=NNC2=C1)C(=O)NC | C15H14N4O
